US04432901
39.6 g. (0.122 moles) of diethyl (2,4-dimethoxybenzyl-amino)-malonate prepared according to Example (1c) are boiled with 12.3 g. (11.2 ml., 0.146 moles) of diketene in 80 ml. of glacial acetic acid for half an hour. The glacial acetic acid is distilled off on water bath, in vacuo, the residual oil is crystallized by trituration with 150 ml. of water, whereupon the substance is dissolved in 60 ml. of ethyl acetate and recrystallized by addition of petroleum ether. 29.6 g. (60%) of diethyl N-(2,4-dimethoxybenzyl)-3-hydroxy-3-methyl-5-oxo-2,2-pyrrolidine-dicarboxylate and/or the tautomer thereof are obtained. Melting point: 106° to 107° C.

reactant | diethyl (2,4-dimethoxybenzyl-amino)-malonate | 0.122 moles | COC1=C(CNC(C(=O)OCC)C(=O)OCC)C=CC(=C1)OC | C16H23NO6
reactant | diketene | 0.146 moles, 11.2 ml | C=C1CC(=O)O1 | C4H4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | diethyl N-(2,4-dimethoxybenzyl)-3-hydroxy-3-methyl-5-oxo-2,2-pyrrolidine-dicarboxylate | 60% | COC1=C(CN2C(C(CC2=O)(C)O)(C(=O)OCC)C(=O)OCC)C=CC(=C1)OC | C20H27NO8
